US07829560B2
3-Fluoro-N-[4-({2-[(4-methylcyclohexyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide (Compound B337).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and 4-methylcyclohexylamine according to conditions described in general procedure C. Mp: 116-117° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.83-0.85 (m, 3 H), 1.17-1.75 (m, 9 H), 3.27 (s, 4 H), 3.34 (s, 1 H), 3.77 (s, 4 H), 6.29 (bs, 1 H), 6.98-7.06 (m, 2 H), 7.27 (d, J=8.4 Hz, 1 H), 7.39-7.42 (m, 1 H), 7.48 (s, 1 H), 7.58-7.60 (m, 3 H), 7.84 (m, 1 H), 7.98-8.00 (m, 1 H), 8.21 (m, 1 H), 10.45 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | 4-methylcyclohexylamine | CC1CCC(CC1)N | C7H15N
product | 3-Fluoro-N-[4-({2-[(4-methylcyclohexyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NC2CCC(CC2)C)C=C(C1)N1CCOCC1 | C32H34FN5O3
